2127-05-19 07:16:00 Physician Resident Progress Note
Chief Complaint: found down, seizure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2127-5-18**] 11:48 PM
   At time, very awake despite on vent, almost sitting up in bed.
   Bloody output overnight, concern for GI bleed, ? variceal; hepatology
   team aware
   Hct drop 8 pts in setting of 4L IVF
   When sedation off, gets tachycardic, diaphoretic, and tremulous
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-5-19**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 100 mcg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-5-19**] 02:13 AM
   Heparin Sodium (Prophylaxis) - [**2127-5-19**] 02:13 AM
   Other medications:
   MVI
   Hep SQ
   ISS
   Thiamine IV
   Folic Acid
   Chlorhexidine
   Flowsheet Data as of  [**2127-5-19**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 90 (90 - 127) bpm
   BP: 124/84(94) {123/84(93) - 146/99(111)} mmHg
   RR: 16 (14 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,820 mL
   PO:
             TF:
   IVF:
   1,820 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,220 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   Compliance: 75.3 cmH2O/mL
   SpO2: 99%
   ABG: ///32/
   Ve: 8.1 L/min
   Physical Examination
   GEN: opens eyes to command, can almost sit up in bed, diaphroetic
   HEENT: PERRL
   COR: RRR, no murmurs
   Pulm: clear ant and lat
   ABD: soft, NT, ND, liver edge 2 cm below costal margin
   EXT: no edema
   Labs / Radiology
   80 K/uL
   9.7 g/dL
   113 mg/dL
   0.6 mg/dL
   32 mEq/L
   2.4 mEq/L
   4 mg/dL
   95 mEq/L
   139 mEq/L
   28.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2127-5-19**]  12:03 AM
                             [**2127-5-19**]  04:51 AM
   WBC
   8.0
   7.3
   Hct
   30.9
   28.7
   Plt
   88
   80
   Cr
   0.6
   0.6
   TropT
   0.01
   Glucose
   106
   113
   Other labs: PT / PTT / INR:16.4/28.2/1.5, CK / CKMB /
   Troponin-T:252/3/0.01, ALT / AST:37/202, Alk Phos / T Bili:166/3.8,
   Amylase / Lipase:/63, Lactic Acid:2.6 mmol/L, Albumin:3.4 g/dL,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   50 y/o M EU critical and unknown history found down and witness tonic
   clonic seizures now intubated with high lactic acidosis
   .
   #. Resp support: He was intubated for airway protection. CXR without
   infiltrate and no hypoxia.
   - wean FiO2 and switch to PSV when able
   - cont Fentanyl / Versed for sedation
   - RSBI and SBT after EGD
   .
   #. Seizure: These are most likely EtOH withdrawal related, although it
   is unknown if he has known seizure hx.
   - appreciate neuro recs
   - will need MRI and EEG per neuron
   - consider Lactulose if not
   .
   # GIB: In ED, he reportdedly had >600 cc bright red NGT drainage. In
   the ICU overnight continued to have some mild bleeding, but currently
   appears to be suctioning bilious fluid
   - appreciate Liver recs
   - continue octreotide, PPI [**Hospital1 7**], cipro for presumed variceal bleed
 can
   stop Cipro if EGD negative
   - Liver to scope this AM
   - Q6-8H Hct
   - guaiac all stools
   - place NGT after EGD
   .
   #. Metabolic acidosis: He has very high lactate. Interestingly, Bicarb
   is only 24 despite AG 28 suggesting a second metabolic alkalosis.
   Seizure can result in elevated lactate, although it would be somewhat
   unusual to be so high. Severe thiamine deficiency/beri beri can also
   often lead to extremely high lactate. Finally, sepsis is less likely as
   no localizing source of infection; however, still remains on
   differential. Lactate and HCO3 improved.
   - osmolar gap (including EtoH) = 313-311 = 2.
   - replete thiamine, vitamins
   - blood cx, urine cx, stool cx, f/u CSF cx
   - he received Vanc/CTX in ED, but would hold on further abx at this
   time as no obvious infectious source
   .
   # Fever: he has had low grade temps in ED, which may be related to
   seizure and EtOH withdrawal. No obvious site of infection except
   elevated LFTs
   - will hold on abx tonight
   .
   # Abnormal LFTs: His LFTs are suggestive of mild hepatitis and c/w
   chronic EtOH abuse. Lipase also mildly elevated concerning for
   pancreatitis
   - will need to obtain further hx re: liver disease.
   - trend LFTs
   - NPO overnight
   - check albumin
   .
   #. ?EtOH withdrawal: We do not have clear hx; however, EtOH level,
   AST>ALT, elevated Tbili are strongly suggestive of chronic EtOH and
   liver disease. Discriminant function is 23.
   - versed gtt for now while intubated
   - will need further hx
   - continue thiamine/folate/MVI- once extubated, will use PO valium for
   CIWA>10
   .
   # Left gaze preference: This was noted by neuro in ED. Head CT prelim
   neg for intracranial bleed. Will eval for evidence of stroke
   - apprec neuro recs
   - MRI and EEG (when able)
   .
   #. Ketonuria: DDX etoh ketoacidosis vs diabetic ketoacidosis
   - ISS
   - IVF with NS tonight
   .
   FEN:
   - replete K, Mg
   .
   PPX:
   - Subcutaneous heparin
   - PPI while intubated
   .
   ACCESS: PIV's
   .
   CODE STATUS: Presumed full
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2127-5-19**] 12:31 AM
   18 Gauge - [**2127-5-19**] 12:32 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2127-05-19 08:40:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Found down
   HPI: 50 yo male found down HTN 200, tachy, low grade temperatures and
   unresponsive.  Intubated for airway protection.  Initial labs sig for
   EtoH 87 and lactate 13.6.  LP normal in ED.  Did receive ceftriaxone
   and vancomycin in ED.  Post intubation 7.49/44/390 post intubation.
   Placed on fentyl and versed drip and sent to ICU.
   24 Hour Events:
   Bloody output from NG tube, started on octreotide, cipro and PPI iv.
   Hct 36-28 and continued hemodynamic stability.
   -Appropriate in ICU follow comands
   -Sitting up in bed
   -Gets tremulous and tachy when sedation goes down.
   -Scoped small ulcers no varicies
 INVASIVE VENTILATION - START [**2127-5-18**] 11:48 PM
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-5-19**] 04:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-5-19**] 02:13 AM
   Heparin Sodium (Prophylaxis) - [**2127-5-19**] 02:13 AM
   Other medications:
   MVI
   Hep Sq
   RISS
   Thiame 100iv Qday
   folic acid
   chlorehex
   cipro 500 Q12
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-19**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 90 (90 - 127) bpm
   BP: 124/84(94) {123/84(93) - 146/99(111)} mmHg
   RR: 16 (14 - 17) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             2,062 mL
   PO:
             TF:
   IVF:
   2,062 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,462 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 13 cmH2O
   Compliance: 75.3 cmH2O/mL
   SpO2: 97%
   ABG: ///32/
   Ve: 8.9 L/min
   Physical Examination
   HEENT:PERRL intubated
   Heart:RRR s1s2
   Lungs:CTA
   Abd:Soft, NT, ND
   Ext:No c/c/e
   Neuro:Moves all 4
s repsonds appropriately to questions
   Labs / Radiology: Chest Port Clear no focal infiltrates ETT in place.
   9.7 g/dL
   80 K/uL
   113 mg/dL
   0.6 mg/dL
   32 mEq/L
   2.4 mEq/L
   4 mg/dL
   95 mEq/L
   139 mEq/L
   28.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2127-5-19**]  12:03 AM
                             [**2127-5-19**]  04:51 AM
   WBC
   8.0
   7.3
   Hct
   30.9
   28.7
   Plt
   88
   80
   Cr
   0.6
   0.6
   TropT
   0.01
   Glucose
   106
   113
   Other labs: PT / PTT / INR:16.4/28.2/1.5, CK / CKMB /
   Troponin-T:252/3/0.01, ALT / AST:37/202, Alk Phos / T Bili:166/3.8,
   Amylase / Lipase:/63, Lactic Acid:2.6 mmol/L, Albumin:3.4 g/dL,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   50 yo unknown male presents found down with seizure and EtOH level 87
   and bloody emesis.  Suspect etoh seizure and withdrawal.
   -Continue versed drip will need to convert to valium/Ativan per NG and
   follow CIWA scale
   -[**Doctor Last Name **] MVI/Thiame/Folate
   -Resp will SBT post EGD and extubate if mental status permits
   -Will follow EGD
   -Continue to check Hcts
   -2 large bore Ivs
   -EEG pending
   -Will hold on MRI until extubated and stable.
   -Will follow Phos once he is given a sugar source.
   -Will consider lactulose if has troubles with fluctuating Mentation
   post extubation
   ICU Care
   Nutrition: NPO for now.
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-5-19**] 12:31 AM
   18 Gauge - [**2127-5-19**] 12:32 AM
   Prophylaxis:
   DVT: HeP
   Stress ulcer: PPI/Octeotide
   VAP: Chorhex
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:  50 mins

2127-05-20 07:10:00 Physician Resident Progress Note
Chief Complaint: seizure
   24 Hour Events:
   - extubated w/o problem, Medical [**Name2 (NI) **] merged, found to have h/o TBI
   (SDH + SAH) although not seen on admission NCHCT
   - per neuro, started Keppra, seizure precautions, needs MRI / EEG
   - on Ativan CIWA after extubation
   - CBC stable x4, K persistently low and getting repleted, LFTs stable
   - RUQ U/S: Diffusely echogenic liver, likely representing fatty
   infiltration. Main portal vein is patent and demonstrates antegrade
   flow. There is flow reversal in the left portal vein, probably
   representing portal hypertension. The spleen is not enlarged. There is
   no ascites.
   - EGD: no varices, 2 ulcers (1 clipped) --> stopped Octretide but
   continued Cipro per Liver recs
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-5-20**] 05:21 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2127-5-19**] 07:43 PM
   Pantoprazole (Protonix) - [**2127-5-20**] 12:13 AM
   Heparin Sodium (Prophylaxis) - [**2127-5-20**] 12:13 AM
   Lorazepam (Ativan) - [**2127-5-20**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Pt reports h/o TBI (SDH and SAH)
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2127-5-20**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 97 (81 - 105) bpm
   BP: 134/101(109) {122/80(93) - 148/108(116)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  6,728 mL
                                                                  1,380 mL
   PO:
                                                                     50 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  6,648 mL
                                                                    980 mL
   Blood products:
   Total out:
                                                                  3,450 mL
                                                                    980 mL
   Urine:
                                                                  3,050 mL
                                                                    980 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  3,278 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 524 (524 - 524) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 13 cmH2O
   SpO2: 94%
   ABG: ///30/
   Ve: 8.8 L/min
   Physical Examination
   General appears well no distress
   HEENT sclera icteric, MMM
   Lungs clear bilaterally
   CV regular S1 S2 no m/r/g
   Abd soft +bowel sounds mild RUQ tenderness
   Extrem warm no edema palpable distal pulses
   Neuro Alert and interactive answering appropriately, CN intact, subtle
   LUE weakness, sensation to light touch intact
   Mild R>L UE tremor
   Labs / Radiology
   72 K/uL
   9.9 g/dL
   113 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.2 mEq/L
   1 mg/dL
   97 mEq/L
   135 mEq/L
   30.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2127-5-19**]  12:03 AM
                             [**2127-5-19**]  04:51 AM
                             [**2127-5-19**]  10:49 AM
                             [**2127-5-19**]  06:02 PM
                             [**2127-5-20**]  04:03 AM
   WBC
   8.0
   7.3
   6.2
   9.0
   9.3
   Hct
   30.9
   28.7
   27.2
   31.0
   30.4
   Plt
   88
   80
   71
   75
   72
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   TropT
   0.01
   Glucose
   106
   113
   114
   216
   113
   Other labs: PT / PTT / INR:15.8/31.6/1.4, CK / CKMB /
   Troponin-T:252/3/0.01, ALT / AST:30/103, Alk Phos / T Bili:153/4.4,
   Amylase / Lipase:/63, Lactic Acid:2.6 mmol/L, Albumin:3.3 g/dL, LDH:362
   IU/L, Ca++:6.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   50 y/o M EU critical and unknown history found down and witness tonic
   clonic seizures now intubated with high lactic acidosis
   .
   #. Resp support: He was intubated for airway protection. CXR without
   infiltrate and no hypoxia.
   - wean FiO2 and switch to PSV when able
   - cont Fentanyl / Versed for sedation
   - RSBI and SBT after EGD
   .
   #. Seizure: These are most likely EtOH withdrawal related, although it
   is unknown if he has known seizure hx.
   - appreciate neuro recs
   - will need MRI and EEG per neuron
   - consider Lactulose if not
   .
   # GIB: In ED, he reportdedly had >600 cc bright red NGT drainage. In
   the ICU overnight continued to have some mild bleeding, but currently
   appears to be suctioning bilious fluid
   - appreciate Liver recs
   - continue octreotide, PPI [**Hospital1 7**], cipro for presumed variceal bleed
 can
   stop Cipro if EGD negative
   - Liver to scope this AM
   - Q6-8H Hct
   - guaiac all stools
   - place NGT after EGD
   .
   #. Metabolic acidosis: He has very high lactate. Interestingly, Bicarb
   is only 24 despite AG 28 suggesting a second metabolic alkalosis.
   Seizure can result in elevated lactate, although it would be somewhat
   unusual to be so high. Severe thiamine deficiency/beri beri can also
   often lead to extremely high lactate. Finally, sepsis is less likely as
   no localizing source of infection; however, still remains on
   differential. Lactate and HCO3 improved.
   - osmolar gap (including EtoH) = 313-311 = 2.
   - replete thiamine, vitamins
   - blood cx, urine cx, stool cx, f/u CSF cx
   - he received Vanc/CTX in ED, but would hold on further abx at this
   time as no obvious infectious source
   .
   # Fever: he has had low grade temps in ED, which may be related to
   seizure and EtOH withdrawal. No obvious site of infection except
   elevated LFTs
   - will hold on abx tonight
   .
   # Abnormal LFTs: His LFTs are suggestive of mild hepatitis and c/w
   chronic EtOH abuse. Lipase also mildly elevated concerning for
   pancreatitis
   - will need to obtain further hx re: liver disease.
   - trend LFTs
   - NPO overnight
   - check albumin
   .
   #. ?EtOH withdrawal: We do not have clear hx; however, EtOH level,
   AST>ALT, elevated Tbili are strongly suggestive of chronic EtOH and
   liver disease. Discriminant function is 23.
   - versed gtt for now while intubated
   - will need further hx
   - continue thiamine/folate/MVI- once extubated, will use PO valium for
   CIWA>10
   .
   # Left gaze preference: This was noted by neuro in ED. Head CT prelim
   neg for intracranial bleed. Will eval for evidence of stroke
   - apprec neuro recs
   - MRI and EEG (when able)
   .
   #. Ketonuria: DDX etoh ketoacidosis vs diabetic ketoacidosis
   - ISS
   - IVF with NS tonight
   .
   FEN:
   - replete K, Mg
   .
   PPX:
   - Subcutaneous heparin
   - PPI while intubated
   .
   ACCESS: PIV's
   .
   CODE STATUS: Presumed full
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2127-5-19**] 12:31 AM
   18 Gauge - [**2127-5-19**] 12:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to floor

2127-05-20 10:01:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Found down
   HPI: 50 yo unknown male presents found down with seizure and EtOH level
   87 and bloody emesis.  Suspect etoh seizure and withdrawal.  Also hx of
   traumatic brain injury.
   24 Hour Events:
   Total
   Ativan-5 mg ativan
   Valium-5 valium
   Started on keppra
 EEG - At [**2127-5-19**] 09:15 AM
 ULTRASOUND - At [**2127-5-19**] 10:30 AM
 ENDOSCOPY - At [**2127-5-19**] 11:30 AM
 INVASIVE VENTILATION - STOP [**2127-5-19**] 03:51 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-5-20**] 05:21 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2127-5-19**] 07:43 PM
   Pantoprazole (Protonix) - [**2127-5-20**] 12:13 AM
   Heparin Sodium (Prophylaxis) - [**2127-5-20**] 08:32 AM
   Lorazepam (Ativan) - [**2127-5-20**] 08:32 AM
   Other medications:
   MVI
   Hep Sq
   RISS
   Thiame 100iv Qday
   folic acid
   chlorehex
   cipro 500 Q12
   protonix Q 12
   Keppra
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-20**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 106 (81 - 106) bpm
   BP: 135/106(113) {122/80(93) - 148/108(116)} mmHg
   RR: 25 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  6,728 mL
                                                                  1,703 mL
   PO:
                                                                     50 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  6,648 mL
                                                                  1,303 mL
   Blood products:
   Total out:
                                                                  3,450 mL
                                                                  1,380 mL
   Urine:
                                                                  3,050 mL
                                                                  1,380 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  3,278 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 524 (524 - 524) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///30/
   Ve: 8.8 L/min
   Physical Examination
   HEENT:PERRL, tongue with ulcer on right lateral aspect ulceration vrs
   cut from seizure
   Heart:RRR s1s2
   Lungs:CTA
   Abd:Soft, NT, ND
   Ext:No c/c/e
   Neuro:Moves all 4
s repsonds appropriately to questions
   Labs / Radiology: RUQ US evidence of portal HTN
   9.9 g/dL
   72 K/uL
   113 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.2 mEq/L
   1 mg/dL
   97 mEq/L
   135 mEq/L
   30.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2127-5-19**]  12:03 AM
                             [**2127-5-19**]  04:51 AM
                             [**2127-5-19**]  10:49 AM
                             [**2127-5-19**]  06:02 PM
                             [**2127-5-20**]  04:03 AM
   WBC
   8.0
   7.3
   6.2
   9.0
   9.3
   Hct
   30.9
   28.7
   27.2
   31.0
   30.4
   Plt
   88
   80
   71
   75
   72
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   TropT
   0.01
   Glucose
   106
   113
   114
   216
   113
   Other labs: PT / PTT / INR:15.8/31.6/1.4, CK / CKMB /
   Troponin-T:252/3/0.01, ALT / AST:30/103, Alk Phos / T Bili:153/4.4,
   Amylase / Lipase:/63, Lactic Acid:2.6 mmol/L, Albumin:3.3 g/dL, LDH:362
   IU/L, Ca++:6.8 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   Cx data all negative.
   Assessment and Plan
   50 yo unknown male presents found down with seizure and EtOH level 87
   and bloody emesis.  Suspect etoh seizure and withdrawal in the setting
   of traumatic brain injury.
   -Continue valium/Ativan Via CIWA scale
   -[**Doctor Last Name **] MVI/Thiame/Folate, replete PHOS
   -Continue PPI change to [**Hospital1 7**]
   -EEG pending, MRI on floor when stable
   -Will follow Phos once he is given a sugar source.
   -D
c Cipro
   -Check Hep serologies
   -Will need to follow tongue lesion ( likely tongue bite)  if it heals
   most likely related to seizure however given his significant etoh hx
   will need to exclude CA.
   ICU Care
   Nutrition: Advance diet, stay ahead of the PHOS, strict aspiration
   precautions
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-5-19**] 12:31 AM
   18 Gauge - [**2127-5-19**] 12:32 AM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer: PPI [**Hospital1 **] PO
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 mins

2127-05-21 07:18:00 Physician Resident Progress Note
Chief Complaint: Alcohol withdrawal
   24 Hour Events:
   - DTs w/ fever to 100.2, HR to 150s, SBP to 150
   - received 260 mg total in 24 hrs and 20 mg ativan
   - Hep serologies pending
   - cipro discontinued
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-5-20**] 05:21 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2127-5-20**] 05:03 PM
   Heparin Sodium (Prophylaxis) - [**2127-5-21**] 12:47 AM
   Pantoprazole (Protonix) - [**2127-5-21**] 03:46 AM
   Diazepam (Valium) - [**2127-5-21**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-21**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.8
   HR: 117 (104 - 134) bpm
   BP: 120/99(102) {120/88(96) - 172/112(121)} mmHg
   RR: 36 (17 - 42) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,149 mL
                                                                  1,126 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  2,749 mL
                                                                  1,126 mL
   Blood products:
   Total out:
                                                                  4,670 mL
                                                                  1,140 mL
   Urine:
                                                                  4,670 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,521 mL
                                                                    -14 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Gen: Diaphoritic, can give some history and knows name but thinks he is
   in the [**Location (un) **]
   HEENT: MMM, no OP lesions, PERRLA
   CV tachy, reg, no g/m/r
   Pulm: CTAB
   Abd: Soft, nt, nd, nabs
   Ext: full dp/radial pulses
   Labs / Radiology
   94 K/uL
   11.2 g/dL
   118
   0.6 mg/dL
   29 mEq/L
   3.0 mEq/L
   3 mg/dL
   99 mEq/L
   138 mEq/L
   33.6 %
   7.1 K/uL
        [image002.jpg]
                             [**2127-5-19**]  12:03 AM
                             [**2127-5-19**]  04:51 AM
                             [**2127-5-19**]  10:49 AM
                             [**2127-5-19**]  06:02 PM
                             [**2127-5-20**]  04:03 AM
                             [**2127-5-20**]  03:37 PM
                             [**2127-5-20**]  04:02 PM
                             [**2127-5-21**]  12:00 AM
                             [**2127-5-21**]  02:49 AM
                             [**2127-5-21**]  06:00 AM
   WBC
   8.0
   7.3
   6.2
   9.0
   9.3
   7.1
   Hct
   30.9
   28.7
   27.2
   31.0
   30.4
   34.0
   33.6
   Plt
   88
   80
   71
   75
   72
   94
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.6
   TropT
   0.01
   Glucose
   106
   113
   114
   [**Telephone/Fax (3) 7535**]
   156
   96
   118
   Other labs: PT / PTT / INR:14.6/29.9/1.3, CK / CKMB /
   Troponin-T:252/3/0.01, ALT / AST:39/198, Alk Phos / T Bili:229/6.8,
   Amylase / Lipase:/63, Lactic Acid:2.6 mmol/L, Albumin:3.3 g/dL, LDH:362
   IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   50 y/o M EU critical and unknown history found down and witness tonic
   clonic seizures now intubated with high lactic acidosis
   .
   #. Resp support: He was intubated for airway protection. CXR without
   infiltrate and no hypoxia.
   - wean FiO2 and switch to PSV when able
   - cont Fentanyl / Versed for sedation
   - RSBI and SBT after EGD
   .
   #. Seizure: These are most likely EtOH withdrawal related, although it
   is unknown if he has known seizure hx.
   - appreciate neuro recs
   - will need MRI and EEG per neuron
   - consider Lactulose if not
   .
   # GIB: In ED, he reportdedly had >600 cc bright red NGT drainage. In
   the ICU overnight continued to have some mild bleeding, but currently
   appears to be suctioning bilious fluid
   - appreciate Liver recs
   - continue octreotide, PPI [**Hospital1 7**], cipro for presumed variceal bleed
 can
   stop Cipro if EGD negative
   - Liver to scope this AM
   - Q6-8H Hct
   - guaiac all stools
   - place NGT after EGD
   .
   #. Metabolic acidosis: He has very high lactate. Interestingly, Bicarb
   is only 24 despite AG 28 suggesting a second metabolic alkalosis.
   Seizure can result in elevated lactate, although it would be somewhat
   unusual to be so high. Severe thiamine deficiency/beri beri can also
   often lead to extremely high lactate. Finally, sepsis is less likely as
   no localizing source of infection; however, still remains on
   differential. Lactate and HCO3 improved.
   - osmolar gap (including EtoH) = 313-311 = 2.
   - replete thiamine, vitamins
   - blood cx, urine cx, stool cx, f/u CSF cx
   - he received Vanc/CTX in ED, but would hold on further abx at this
   time as no obvious infectious source
   .
   # Fever: he has had low grade temps in ED, which may be related to
   seizure and EtOH withdrawal. No obvious site of infection except
   elevated LFTs
   - will hold on abx tonight
   .
   # Abnormal LFTs: His LFTs are suggestive of mild hepatitis and c/w
   chronic EtOH abuse. Lipase also mildly elevated concerning for
   pancreatitis
   - will need to obtain further hx re: liver disease.
   - trend LFTs
   - NPO overnight
   - check albumin
   .
   #. ?EtOH withdrawal: We do not have clear hx; however, EtOH level,
   AST>ALT, elevated Tbili are strongly suggestive of chronic EtOH and
   liver disease. Discriminant function is 23.
   - versed gtt for now while intubated
   - will need further hx
   - continue thiamine/folate/MVI- once extubated, will use PO valium for
   CIWA>10
   .
   # Left gaze preference: This was noted by neuro in ED. Head CT prelim
   neg for intracranial bleed. Will eval for evidence of stroke
   - apprec neuro recs
   - MRI and EEG (when able)
   .
   #. Ketonuria: DDX etoh ketoacidosis vs diabetic ketoacidosis
   - ISS
   - IVF with NS tonight
   .
   FEN:
   - replete K, Mg
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2127-5-20**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2127-05-21 08:11:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Found down
   HPI: 50 yo unknown male presents found down with seizure and EtOH level
   87 and bloody emesis.  Suspect etoh seizure and withdrawal.  Also hx of
   traumatic brain injury.
   24 Hour Events:
   fever 100.2
   Went into DT
s yesterday
   received a total of 260 Diazapam, 20mg IV ativan
   Hep serology pending
   Cipro dc
   Loose stools
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-5-20**] 05:21 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2127-5-20**] 05:03 PM
   Pantoprazole (Protonix) - [**2127-5-21**] 03:46 AM
   Diazepam (Valium) - [**2127-5-21**] 04:14 AM
   Heparin Sodium (Prophylaxis) - [**2127-5-21**] 08:10 AM
   Other medications:
   MVI
   Hep Sq
   RISS
   Thiame 100iv Qday
   folic acid
   protonix Q 12
   Keppra 500 po bid
   Valium 10mg IV Q1, prn Q 10
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-21**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 113 (104 - 134) bpm
   BP: 123/98(103) {120/88(96) - 172/112(121)} mmHg
   RR: 28 (17 - 42) insp/min
   SpO2: 97% 2L
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,149 mL
                                                                  1,170 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  2,749 mL
                                                                  1,170 mL
   Blood products:
   Total out:
                                                                  4,670 mL
                                                                  1,300 mL
   Urine:
                                                                  4,670 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,521 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Gen:Oriented to person only tremulousness improved
   HEENT:PERRL, tongue with ulcer on right lateral aspect ulceration vrs
   cut from seizure
   Heart:RRR s1s2
   Lungs:CTA
   Abd:Soft, NT, ND
   Ext:No c/c/e
   Neuro:Moves all 4
s repsonds appropriately to questions
   Labs / Radiology:
   11.2 g/dL
   94 K/uL
   118
   0.6 mg/dL
   29 mEq/L
   3.0 mEq/L
   3 mg/dL
   99 mEq/L
   138 mEq/L
   33.6 %
   7.1 K/uL
        [image002.jpg]
   Micro-Negative to date
                             [**2127-5-19**]  12:03 AM
                             [**2127-5-19**]  04:51 AM
                             [**2127-5-19**]  10:49 AM
                             [**2127-5-19**]  06:02 PM
                             [**2127-5-20**]  04:03 AM
                             [**2127-5-20**]  03:37 PM
                             [**2127-5-20**]  04:02 PM
                             [**2127-5-21**]  12:00 AM
                             [**2127-5-21**]  02:49 AM
                             [**2127-5-21**]  06:00 AM
   WBC
   8.0
   7.3
   6.2
   9.0
   9.3
   7.1
   Hct
   30.9
   28.7
   27.2
   31.0
   30.4
   34.0
   33.6
   Plt
   88
   80
   71
   75
   72
   94
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.6
   TropT
   0.01
   Glucose
   106
   113
   114
   [**Telephone/Fax (3) 7535**]
   156
   96
   118
   Other labs: PT / PTT / INR:14.6/29.9/1.3, CK / CKMB /
   Troponin-T:252/3/0.01, ALT / AST:39/198, Alk Phos / T Bili:229/6.8,
   Amylase / Lipase:/63, Lactic Acid:2.6 mmol/L, Albumin:3.3 g/dL, LDH:362
   IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   50 yo unknown male presents found down with seizure and EtOH level 87
   and bloody emesis.  Suspect etoh seizure and withdrawal in the setting
   of traumatic brain injury.
   -Continue valium PO and IV Ativan Via CIWA scale
   -[**Doctor Last Name **] MVI/Thiame/Folate, replete PHOS
   -Continue PPI change to [**Hospital1 7**]
   -EEG pending, MRI on floor when stable, may need lactulose if mental
   status worsens despite treatment of ETOH withdrawal
   -Will follow Phos once he is given a sugar source.
   -F/U Hep serologies
   -Will continue to follow/trend lfts
   -Will need to follow tongue lesion ( likely tongue bite)  if it heals
   most likely related to seizure however given his significant etoh hx
   will need to exclude CA.
   ICU Care
   Nutrition: advance when stable
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-5-20**] 09:30 PM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU until benzo requirements decrease
   Total time spent:   25 mins

2127-05-22 07:43:00 Physician Resident Progress Note
Chief Complaint:
   1. Seizure
   2. Alcohol withdrawal
   24 Hour Events:
   - HBsAb: Borderline Positive -- C/W Titer Of Roughly 10 Miu/Ml
   - EEG read: This is a normal routine EEG in the waking and sleeping
   states. The generalized low voltage fast beta rhythms may be seen with
   medication side effects (e.g. benzodiazepines and barbiturates) or may
   be seen with anxiety.
   - SW consult ordered; they will follow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-5-20**] 05:21 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2127-5-21**] 08:15 AM
   Pantoprazole (Protonix) - [**2127-5-21**] 02:28 PM
   Heparin Sodium (Prophylaxis) - [**2127-5-22**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems:  Review of systems is unchanged from admission
   except as noted below
   Flowsheet Data as of  [**2127-5-22**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 102 (94 - 136) bpm
   BP: 138/97(107) {106/64(84) - 143/105(110)} mmHg
   RR: 27 (20 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,971 mL
                                                                    231 mL
   PO:
                                                                    190 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,781 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    165 mL
   Urine:
                                                                  1,890 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     81 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   GENERAL: w/ prompting, oriented to person, place, year, month
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. Mildly
   icteric sclera. PERRLA.
   Neck: supple
   CARDIAC: Regular rhythm, tachy. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 1011**].
   LUNGS: Clear to auscultation bilaterally
   ABDOMEN: NABS. Soft, non-tender, non-distended, liver 2 cm below costal
   margin
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses, stigmata of chronic liver dz.
   Labs / Radiology
   137 K/uL
   11.1 g/dL
   72 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.3 mEq/L
   7 mg/dL
   99 mEq/L
   140 mEq/L
   33.9 %
   7.2 K/uL
        [image002.jpg]
                             [**2127-5-19**]  04:51 AM
                             [**2127-5-19**]  10:49 AM
                             [**2127-5-19**]  06:02 PM
                             [**2127-5-20**]  04:03 AM
                             [**2127-5-20**]  03:37 PM
                             [**2127-5-20**]  04:02 PM
                             [**2127-5-21**]  12:00 AM
                             [**2127-5-21**]  02:49 AM
                             [**2127-5-21**]  06:00 AM
                             [**2127-5-22**]  03:53 AM
   WBC
   7.3
   6.2
   9.0
   9.3
   7.1
   7.2
   Hct
   28.7
   27.2
   31.0
   30.4
   34.0
   33.6
   33.9
   Plt
   80
   71
   75
   72
   94
   137
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.6
   0.7
   Glucose
   113
   114
   216
   113
   131
   156
   96
   118
   72
   Other labs: PT / PTT / INR:14.9/25.8/1.3, CK / CKMB /
   Troponin-T:252/3/0.01, ALT / AST:49/217, Alk Phos / T Bili:262/6.4,
   Amylase / Lipase:/63, Lactic Acid:2.6 mmol/L, Albumin:3.3 g/dL, LDH:362
   IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan:  50M found down and witness tonic clonic seizures
   felt to be secondary to alcohol withdrawal.
   # EtOH withdrawal:  Massive benzo requirements on [**5-21**] (>200mg valium).
   - Continue with IV ativan 4mg Q10Min, valium 20mg Q1H per CIWA
   - Continue thiamine/folate/MVI
   # Seizure: Thought secondary to EtoH withdrawal. Has history of head
   bleed but none seen here. He does have a possible meningioma on CT
   head. No evidence for infection on LP.
   - Appreciate neuro recs
   - MRI head per neuro recs
 delay until benzo requirements decrease
   - Continue keppra
 can give IV if unable to take PO
   - Continue seizure precautions
   # GIB:  In ED, he reportedly had >600 cc bright red NGT drainage.
   Underwent EGD with ulcers -> clipped. Scope also suggestive of  portal
   hypertensive gastropathy. Hct currently stable.
   - Continue PPI; changed to PO
   - Discontinued cipro
   - Follow Hct [**Hospital1 7**]
   - Maintain PIV x2, active T+S, transfuse hct>25
   # Liver disease; likely cirrhosis:  Discriminant function 23 on admit.
   RUQ ultrasound showed portal hypertension.
   - Live recs appreciated
   - F/u hepatitis serologies
   - Trend LFTs daily
   # Tongue lesion:  Needs dental followup, is at risk for head/neck CA
   ICU Care
   Nutrition:  Regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines: 20 Gauge - [**2127-5-20**] 09:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: on ppi
   VAP:  n/a
   Communication:  Sister [**First Name8 (NamePattern2) 3274**] [**Name (NI) 957**]); home
 [**Telephone/Fax (1) 7544**];  work
   [**Telephone/Fax (1) 7545**]
   Code status: Full code
   Disposition: Call-out to floor

2127-05-22 08:25:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Found down
   HPI: 50 yo unknown male presents found down with seizure and EtOH level
   87 and bloody emesis.  Suspect etoh seizure and withdrawal.  Also hx of
   traumatic brain injury.
   24 Hour Events:
   Mr. [**Name (NI) **] sister called and her and her mother may be coming in today.
   received total 60mg valium overnight and no ativan.  Withdrawl
   improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-5-20**] 05:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2127-5-21**] 02:28 PM
   Heparin Sodium (Prophylaxis) - [**2127-5-22**] 12:07 AM
   Other medications:
   MVI
   Hep Sq
   RISS
   Thiame 100mg po qday
   folic acid
   protonix Q 12
   Keppra 500 po bid
   Valium and ativan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-5-22**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 100 (94 - 136) bpm
   BP: 146/113(121) {106/64(84) - 146/113(121)} mmHg
   RR: 25 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  1,971 mL
                                                                    282 mL
   PO:
                                                                    190 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,781 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    265 mL
   Urine:
                                                                  1,890 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     81 mL
                                                                     17 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Gen:Oriented to hospital and person tremulousness improved
   HEENT:PERRL, tongue with ulcer on right lateral aspect ulceration vrs
   cut from seizure
   Heart:RRR s1s2
   Lungs:CTA
   Abd:Soft, NT, ND
   Ext:No c/c/e
   Neuro:Moves all 4
s repsonds appropriately to questions
   Labs / Radiology
   11.1 g/dL
   137 K/uL
   72 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.3 mEq/L
   7 mg/dL
   99 mEq/L
   140 mEq/L
   33.9 %
   7.2 K/uL
        [image002.jpg]
                             [**2127-5-19**]  04:51 AM
                             [**2127-5-19**]  10:49 AM
                             [**2127-5-19**]  06:02 PM
                             [**2127-5-20**]  04:03 AM
                             [**2127-5-20**]  03:37 PM
                             [**2127-5-20**]  04:02 PM
                             [**2127-5-21**]  12:00 AM
                             [**2127-5-21**]  02:49 AM
                             [**2127-5-21**]  06:00 AM
                             [**2127-5-22**]  03:53 AM
   WBC
   7.3
   6.2
   9.0
   9.3
   7.1
   7.2
   Hct
   28.7
   27.2
   31.0
   30.4
   34.0
   33.6
   33.9
   Plt
   80
   71
   75
   72
   94
   137
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.6
   0.7
   Glucose
   113
   114
   216
   113
   131
   156
   96
   118
   72
   Other labs: PT / PTT / INR:14.9/25.8/1.3, CK / CKMB /
   Troponin-T:252/3/0.01, ALT / AST:49/217, Alk Phos / T Bili:262/6.4,
   Amylase / Lipase:/63, Lactic Acid:2.6 mmol/L, Albumin:3.3 g/dL, LDH:362
   IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Micro negative
   Assessment and Plan
   50 yo unknown male presents found down with seizure and EtOH level 87
   and bloody emesis.  Suspect etoh seizure and withdrawal in the setting
   of traumatic brain injury.
   -Continue valium PO and IV Ativan Via CIWA scale
   -[**Doctor Last Name **] MVI/Thiame/Folate, replete PHOS
   -Social work seeing patient and family to come in today.
   -Continue PPI change to [**Hospital1 7**]
   -EEG negative, MRI on floor when stable and following commands, may
   need lactulose if mental status worsens despite treatment of ETOH
   withdrawal
   -Will follow Phos once he is given a sugar source.
   -F/U Hep serologies
   -Will continue to follow/ trend lfts
   -Will need to follow tongue lesion (likely tongue bite)  if it heals
   most likely related to seizure however given his significant etoh hx
   will need to exclude CA.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2127-5-20**] 09:30 PM
   Prophylaxis:
   DVT: SQ heprin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Floor today
   Total time spent: